Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hemobilia
 
Major Surgical or Invasive Procedure:
___ main portal vein stenting, variceal embolization, PTBD 
exchange
___ Celiac arteriogram, right hepatic artery covered stent 
placement

 
History of Present Illness:
___ man with metastatic pancreatic cancer s/p Whipple in 
___, recurrence in ___ around the pancreas and to the adrenals 
c/b recurrent biliary obstruction requiring stent and PTBD drain 
(capped during the day and uncaps at night) presenting with 
abdominal pain and bloody drain output, transferred to MICU for 
worsening coagulopathy in the setting of hemobilia and GI 
bleeding.

Please see medicine nightfloat admission note for full HPI, but 
in brief: 

Initially presented to the ED on the evening of ___ after 
complaining of RUQ pain and bloody drainage from the external 
biliary drain -> ED.  
 
Initial labs showed LFTS up, Tbili 2, INR 3.2 (not 
anticoagulated). Gave 5 mg PO vitamin K. Fibrinogen was 230s. CT 
A/P showed drain in proper position and known recurrent disease. 
Decision was made to admit her to medicine with a plan to go to 
___ suite for exploration and drain exchange on ___.

Overnight on the night/early morning of admission, she spiked 
fever to 102.3F. She was started on vancomycin and zosyn.  
 
Notably, morning labs on ___ showed INR 1.1 but this was 
spurious as the tube was mislabeled and was another patient's 
specimen.  
 
Patient went to ___ on morning of ___. Active hemobilia through 
external PTBD was confirmed. A drain exchange was performed. 
Angiography showed no pseudoaneurysms or active extravasation. 
Demonstrated extensive varices, especially around the 
hepatojejunal junction. Note, patient also has an entirely 
obstructed portal vein (appears to be subacute, unclear if 
thrombus or tumor obstruction. Overall, there was nothing to 
intervene upon at the time; however, it may be possible to do a 
larger embolization procedure in the future under GA pending 
normalization of the INR.

The ___ procedure was complicated by continued bleeding from the 
area around the drain but the patient remained hemodynamically 
stable. Given continued bleeding and worsening coagulopathy, 
decision was made to admit to the MICU for further management.

On arrival to the MICU, patient is in no distress and complained 
of mild-moderate abdominal pain of the same character as he has 
had.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
 -Pancreatic CA s/p Whipple in ___ at ___  
 -6 months of gemcitabine, adjuvant XRT w/fluoropyrimidine  
 sensitization  
 -Had local recurrence in ___ and underwent 5 fractions of  
 Cyberknife in ___ to perihepatic adenopathy/recurrent soft  
 tissue mass  
 -He is most recently s/p 9 cycles of salvage gemcitabine and  
 abraxane (in ___ on q2 wk cycles due to cytopenias  
 
PAST MEDICAL/SURGICAL HISTORY  
 - GERD  
 - sleep apnea (CPAP without oxygen)  
 - detached retina repair  
 - appendectomy  
 - ___ on bx ___  
 - Chronic pancreatitis  
 
Social History:
___
Family History:
Father: gastric cancer
Mother: CAD
 
Physical ___:
========================
ADMISSION PHYSICAL EXAM:
========================
Vital Signs: 99.4 PO 170 / 71 Sitting 72 18 100 RA.
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding; PTBD drain was in place 
on right flank; dark blood was filling the bag; dressing removed 
showed extensive oozing and blood soaking through the bandage; 
no brisk bleeding was noted; oozing around the drain site was 
noted
GU: No foley
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.

=========================
DISCHARGE PHYSICAL EXAM:
=========================
VS - 98.0 125 / 48 69 18 100 % RA  
General: well appearing, NAD  
HEENT: MMM, EOMI  
Neck: no JVD, no LAD  
CV: rrr, no m/r/g  
Lungs: CTAB, breathing comfortably
Chest: Port-a-cath in place right chest, no erythema or 
tenderness.  
Abd: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly, biliary drain 
in RUQ draining bilious fluid, reducible umbilical hernia     
GU: deferred  
Ext: warm and well perfused, pulses, no edema  
Neuro: grossly normal  

 
Pertinent Results:
================
ADMISSION LABS:
================
___ 05:21PM BLOOD WBC-5.0# RBC-3.27* Hgb-9.4* Hct-28.7* 
MCV-88 MCH-28.7 MCHC-32.8 RDW-15.8* RDWSD-49.4* Plt ___
___ 05:21PM BLOOD Neuts-79* Bands-1 Lymphs-15* Monos-5 
Eos-0 Baso-0 ___ Myelos-0 AbsNeut-4.00 AbsLymp-0.75* 
AbsMono-0.25 AbsEos-0.00* AbsBaso-0.00*
___ 05:21PM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-NORMAL Polychr-OCCASIONAL Ovalocy-1+ 
Burr-OCCASIONAL Tear ___
___ 05:21PM BLOOD ___ PTT-37.9* ___
___ 05:21PM BLOOD Glucose-111* UreaN-10 Creat-0.6 Na-130* 
K-4.3 Cl-93* HCO3-25 AnGap-16
___ 05:21PM BLOOD ALT-65* AST-65* AlkPhos-551* TotBili-2.0*
___ 05:21PM BLOOD Albumin-3.2* Calcium-8.3* Phos-2.7 Mg-1.7

===============
DISCHARGE LABS
===============
___ 06:02AM BLOOD WBC-4.2 RBC-2.83* Hgb-8.6* Hct-26.0* 
MCV-92 MCH-30.4 MCHC-33.1 RDW-17.1* RDWSD-52.6* Plt ___
___ 06:02AM BLOOD Glucose-93 UreaN-13 Creat-0.6 Na-134 
K-3.6 Cl-97 HCO3-27 AnGap-14
___ 06:02AM BLOOD ALT-30 AST-24 AlkPhos-258* TotBili-0.9
___ 06:02AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.0

=============
MICROBIOLOGY:
=============
___ 6:00 am BLOOD CULTURE      Source: Line-port o cath. 

   Blood Culture, Routine (Preliminary): 
      THIS IS A CORRECTED REPORT (08:05 ___. 
      Reported to and read back by ___ ON 
___ AT
      08:00. 
      STREPTOCOCCUS ANGINOSUS.    FINAL SENSITIVITIES. 
         CLINDAMYCIN MIC OF >=1 MCG/ML = RESISTANT. 
         PREVIOUSLY REPORTED AS IN PAIRS, CHAINS, AND CLUSTERS 
(22:00
         ___.  Isolated from only one set in the previous 
five days. 
         CEFTRIAXONE Susceptibility testing requested by ___ 
___ ON
         ___. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS ANGINOSUS
                             |   
CEFTRIAXONE-----------  0.25 S
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S

 
Brief Hospital Course:
Mr. ___ is a ___ male with a history of recurrent 
pancreatic cancer s/p Whipple and chemo/XRT c/b biliary 
obstruction requiring placement of a PTBD. Patient presented to 
the ED with abdominal pain and frank bleeding from his PTBD 
site. On hospital day #1 he underwent ___ exploration of his 
drain which demonstrated bleeding varices and collaterals at the 
HJ junction. The procedure was complicated by bleeding in the 
setting of worsening coagulopathy of unclear etiology. Given his 
risk factors, he was transferred to the MICU for further 
management. 

Blood cultures obtained on ___ grew Streptococcus anginosus. 
Patient was transitioned from vancomycin to ceftriaxone to 
continue a 2 week course. 

==============
MICU COURSE:
==============

#Hematobilia: In the MICU, patient's coagulopathy was reversed 
with FFP and IV vitamin K and he was transfused RBCs. ___ was 
consulted with finding of severe portal vein stenosis, variceal 
filling.  On ___, he went back to the ___ suite for embolization 
of bleeding vessels, along with stenting of main portal vein. 
After procedure on ___, he had a sudden 500 cc bloody output 
from the drain, but remained hemodynamically stable. His drain 
was flushed and aspirated per ___ (interventional radiology) 
instructions. Post-procedure his bilirubin elevated, likely from 
intervention itself, no evidence of other hemodynamic changes. 
CTA showed no active extravasation, small splenic, no evidence 
of biliary bleeding and stent patency. On ___, he underwent a 
celiac arteriogram shows irregular right hepatic artery at point 
of contact with biliary drainage catheter. He had a sccessful 
RHA covered stent placement. He returned to the MICU and had 
bloody-bile drainage, although less bloody.

# Coagulopathy: Elevated ___ and PTT with normal fibrinogen with 
no evidence of hemolysis. His INR was up to 7.8 from 3 on 
admission. The patient's coagulopathy was new on admission. 
Patient reported he has not eaten anything in many days. Patient 
was given PO vitamin K 5mg on arrival and again on HD #1. 
Initial concern for DIC but this was  not supported by labs. 
Although unclear unifying source, coagulopathy appears to be 
multifactorial in response to stress from bleeding, obstructive 
biliary disease, sepsis and nutritional deficiency. His 
coagulopathy corrected with FFP and PRBC transfusion. 

# Strep anginosis bacteremia: Spiked to T>102 on morning of ___, 
started on broad spectrum Abx and no fevers since. Likely 
GI/hepatobiliary source from translocation from the PTBD. 
However, the patient also had recent UTI causing similar 
symptoms. He was empirically started on vancomycin and zosyn for 
broad abdominal coverage. Blood cultures grew Streptococcus 
anginosis, drawn from his port-a-cath. He was transitioned to 
ceftriaxone. He otherwise remained afebrile aside from above. 

Patient was transferred to the floor on ___. His Hct and 
platelet counts remained stable, and patient was discharge home 
with plans to follow up at his infusion clinic at ___ 
___ to finish a 2 week course of IV ceftriaxone 
(___) and have vancomycin dwells in his port-a-cath until 
then. For stent patency, patient was discharged on full dose 
aspirin (as well as lovenox for DVT): Hgb was stable on these 
medications prior to discharge. 

=============== 
CHRONIC ISSUES 
===============

# Pancreatic Cancer s/p pylorus preserving Whipple with local 
recurrence treated with chemo and XRT: Patient is usually on 
OMED, however needed to be admitted to ___ for 
specialized ___ service. Continue current regimen of pancreatic 
enzymes, decadron, ursodiol and it is unclear whether patient is 
on cholestyramine (would need to check records). Continued 
Zofran and lorazepam for nausea and sleep. Oxycodone for pain.  
Palliative care was consulted for further recommendations given 
complex disease.
 
# Depression: Discontinued citalopram given concern for platelet 
dysfunction 

TRANSITIONAL ISSUES
- Plan to continue ceftriaxone 2 gm IV Q24H for a total course 
of 2 weeks after the last positive blood culture ___ - ___: 
this will take place at the ___, 
confirmed with Dr. ___ dose due at noon on ___ 
- While on IV ceftriaxone (through ___, port-a-acth should 
have vancomycin locks placed between antibiotic doses ( 
Vancomycin-Heparin Lock ___AILY)  
- Biliary drain plan: drain should be flushed twice a day. It 
should also be uncapped for approximately half of the day and 
capped the rest of the day as well as overnight. Pt has 
follow-up with ___ ___, and ___ PA will follow up with the goal 
of capping for longer.
- Pt should have outpatient labs for CBC w/ diff, BUN, Cr, AST, 
ALT, Total Bili, alk phos on ___
- Citalopram was discontinued during admission out of concern 
for platelet dysfunction: consider restarting as outpatient if 
platelets are stable 
- For stent patency, pt discharged on full dose aspirin (as well 
as lovenox for DVT): Hgb was stable on these medications prior 
to discharge 
- Pt found to have infrarenal IVC thrombus on CT abdomen: 
consider repeat imaging in the cuture 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cholestyramine 4 gm PO BID 
2. Citalopram 40 mg PO DAILY 
3. Dexamethasone 2 mg PO DAILY 
4. Diphenoxylate-Atropine 2 TAB PO Q6H:PRN diarrhea 
5. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
6. Metoclopramide 10 mg PO QIDACHS 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. opium tincture 0.6 mg oral Q6H:PRN rectal spasm 
9. OxycoDONE (Immediate Release)  20 mg PO Q4H:PRN pain 
10. OxyCODONE SR (OxyconTIN) 20 mg PO QHS 
11. Potassium Chloride 40 mEq PO DAILY 
12. Sucralfate 1 gm PO QID 
13. Ursodiol 300 mg PO BID 
14. Zenpep (lipase-protease-amylase) 25,000-85,000- 136,000 unit 
oral TID W/MEALS 
15. NexIUM 24HR (esomeprazole magnesium) 20 mg oral DAILY 

 
Discharge Medications:
1. Diphenoxylate-Atropine 2 TAB PO Q6H:PRN diarrhea 
2. Sucralfate 1 gm PO QID 
3. Zenpep (lipase-protease-amylase) 25,000-85,000- 136,000 unit 
oral TID W/MEALS 
4. OxyCODONE SR (OxyconTIN) 20 mg PO QHS 
5. OxycoDONE (Immediate Release)  20 mg PO Q4H:PRN pain 
6. opium tincture 0.6 mg oral Q6H:PRN rectal spasm 
7. Lorazepam 0.5 mg PO Q6H:PRN anxiety 
8. Metoclopramide 10 mg PO QIDACHS 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Aspirin 325 mg PO DAILY 
11. CefTRIAXone 2 gm IV Q24H 
12. Cholestyramine 4 gm PO BID 
13. Dexamethasone 2 mg PO DAILY 
14. Vancomycin-Heparin Lock ___AILY 
15. Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 40 mg subcutaneous daily Disp #*30 
Syringe Refills:*1
16. Ursodiol 300 mg PO BID 
17. NexIUM 24HR (esomeprazole magnesium) 20 mg oral DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
hemobilia
Coagulopathy
Strep Aeginosus bacteremia
Secondary:
Metastatic pancreatic cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ was a pleasure caring for you at ___. You were admitted 
because you had bleeding from your drain site. The 
interventional radiologists embolized some blood vessels, and 
placed some stents in your biliary system to control the 
bleeding. We also found bacteria in your blood, for which you 
were put on antibiotics. Please continue follow up at your 
___ to finish a 2 week course of antibiotics 
(___). You will also need antibiotics placed in your 
port-a-cath until then. Continue to flush the drain twice a day. 
Uncap the stent for half the day, and cap it in the afternoon 
and overnight.

Your ___ care team. 
 
Followup Instructions:
___